### PR TITLE
Recursive principles for the Cumulative hierarchy

### PR DESCRIPTION
**Pull request by shiranaiyo**
I've followed very closely [Tom's work](https://www.cs.bham.ac.uk/~mhe/agda/UF.CumulativeHierarchy.html) as those recursion principles are very useful. However I've also noticed that no recursion principles have been stated in agda-unimath (at least not with that name), so I'm unsure if this is the correct naming scheme.

I left the last one in a comment as I wanted to check the name too. It also made me realize I needed `is-set (Prop l)`. Which can be seen as a particular case of
image

Just double checking, this isn't in the library yet, right?

### CODE REVIEW

**Comment by fredrik-bakke** [comment]
Hi Fernando! I'll quickly answer your questions.

> I've followed very closely [Tom's work](https://www.cs.bham.ac.uk/~mhe/agda/UF.CumulativeHierarchy.html) as those recursion principles are very useful. However I've also noticed that no recursion principles have been stated in agda-unimath (at least not with that name), so I'm unsure if this is the correct naming scheme.

I'm unsure why this is the case other than that recursion principles are just special cases of induction principles. My feeling is it would not be wrong to add a recursion principle kind of statement to the library. Indeed, in one of my newest PRs I am also doing this.

> I left the last one in a comment as I wanted to check the name too. It also made me realize I needed `is-set (Prop l)`. Which can be seen as a particular case of image
> 
> Just double checking, this isn't in the library yet, right?

This is formalized  as `is-set-Prop` on lines 88-90 in `foundation.sets`.

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 1]
```diff
@@ -117,14 +122,113 @@ module _
...
+  --       (g : B → type-pseudo-cumulative-hierarchy V)
+  --       (e : lift f g × lift g f)
+  --     → (IH₁ : A → Prop l2)
+  --     → (IH₂ : B → Prop l2)
+  --     → ( (a : A) → ∃ B (λ b → Σ (f a ＝ g b)
+  --         ( λ _ → IH₁ a ＝ IH₂ b)))
+  --     → type-Prop (ρ f IH₁) → type-Prop (ρ g IH₂))
+  --   → type-pseudo-cumulative-hierarchy V → Prop l2
+  -- prop-recursion-principle-cumulative-hierarchy-V {l2} ρ τ =
+  --   recursion-principle-cumulative-hierarchy-V (Prop l2) {!!} ρ {!!}
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:231]: commented code should be removed

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 2]
```diff
@@ -117,14 +122,113 @@ module _
...
+        (g : B → type-pseudo-cumulative-hierarchy V)
+        (e : lift f g × lift g f)
+      → (IH₁ : A → X)
+      → (IH₂ : B → X)
+      → ( (a : A) → ∃ B (λ b → Σ (f a ＝ g b)
+          ( λ _ → IH₁ a ＝ IH₂ b)))
+      → ( (b : B) → ∃ A (λ a → Σ (g b ＝ f a)
+          ( λ _ → IH₂ b ＝ IH₁ a)))
+      → ρ f IH₁ ＝ ρ g IH₂)
+      → type-pseudo-cumulative-hierarchy V → X
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:158]: This is a very minor point, but our convention is to place arrows at the end of lines instead of the beginning in cases like this.
Cf. <https://unimath.github.io/agda-unimath/CODINGSTYLE.html> (under Indentation)

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 3]
```diff
@@ -117,14 +122,113 @@ module _
...
+        ( λ A → Σ (A → type-pseudo-cumulative-hierarchy V)
+          ( λ f → set-pseudo-cumulative-hierarchy V f ＝ v))
+  underlying-function-cumulative-hierarchy =
+    induction-principle-cumulative-hierarchy-V
+      ( lsuc l1) _
+      ( λ - → is-trunc-type-Truncated-Type (set-trunc-Prop _))
+      ( λ {A} f H → unit-trunc-Prop (pair A (pair f refl)))
+      ( λ f g e IH₁ IH₂ hIH₁ hIH₂ → eq-is-prop is-prop-type-trunc-Prop)
+
+  recursion-principle-cumulative-hierarchy-V : {l2 : Level}
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:145]: The name of this construction should not reference variable names (i.e. here `V`). I suggest `recursion-principle-cumulative-hierarchy` instead.
Cf. <https://unimath.github.io/agda-unimath/CODINGSTYLE.html> (under Names)

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 4]
```diff
@@ -117,14 +122,113 @@ module _
...
+        where
+          path-f-g = set-ext-pseudo-cumulative-hierarchy V f g e
+          hIH₁' : (a : A) → ∃ B (λ b → Σ (f a ＝ g b) (λ _ → IH₁ a ＝ IH₂ b))
+          hIH₁' a = map-trunc-Prop
+            (λ (b , p , q) → (b , p , (inv (tr-const p _) ∙ q))) (hIH₁ a)
+          hIH₂' : (b : B) → ∃ A (λ a → Σ (g b ＝ f a) (λ _ → IH₂ b ＝ IH₁ a))
+          hIH₂' b = map-trunc-Prop
+            (λ (a , p , q) → (a , p , (inv (tr-const p _) ∙ q))) (hIH₂ b)
+
+  compute-recursion-principle-cumulative-hierarchy-V : {l2 : Level}
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:181]: this name also references a variable

**Review by fredrik-bakke — CHANGES_REQUESTED** [review]

**Comment by shiranaiyo** [comment]
@fredrik-bakke thank you! I'll be implementing the suggestions soon. With respect to `is-set (Prop l)`, I think it is very different from `is-set-Prop` in `foundation.sets`. The latter just being that for any `A` we have a Prop, that of `is-set A`. So it's kind of the other way around.

**Comment by fredrik-bakke** [comment]
Oh, yeah, you're absolutely right! I didn't even bother reading what `is-set-Prop` actually did before I responded. My bad!

**Comment by fredrik-bakke** [comment]
I am also unable to find Theorem 7.1.11 formalized in the library.
I can note that
- Theorem 7.1.6 is `is-trunc-emb`
- the statement `(A ≃ B) ↪ (A → B)` is `emb-map-equiv`
- And Lemma 3.5.1 should be easy to prove if it's not already in the library

**Comment by shiranaiyo** [comment]
Haha np, funny how `is-set-Prop` can be interpreted both ways. I think I've found 7.1.11 as `is-trunc-Truncated-Type` in `foundations.truncated-types`, but since `Prop` is not judgementally equal to the type of propositional truncations the lemma `is-set (Prop l)` is still needed. I'd appreciate name suggestions for it.

**Comment by fredrik-bakke** [comment]
Would you look at that.

Also, I'm unsure what you mean. The following type checks for me

```agda
is-set-Prop' : (l : Level) → is-set (Prop l)
is-set-Prop' l = is-trunc-Truncated-Type (neg-one-𝕋)
```

**Comment by shiranaiyo** [comment]
Yeah I found `is-trunc-Truncated-Type` because I was about to implemented it but agda complained it already existed. Yay for consistent naming schemes :)

Forgot `Prop` here is defined differently than in the HoTT book, thanks! I'll continue with the cumulative hierarchy then, just using `is-trunc-Truncated-Type (neg-one-𝕋)` when needed.

**Comment by fredrik-bakke** [comment]
Sounds like a good solution for now. I am a little annoyed with `is-set-Prop` at the moment.

**Comment by EgbertRijke** [comment]
The file `foundation.propositional-extensionality` contains the statement you want. It is called `is-set-type-Prop`

**Comment by EgbertRijke** [comment]
I think the confusing naming comes from when we converted to `--no-import-sorts`. This allowed us to rename `UU-Prop` to `Prop`. The names were previously `is-set-Prop` for the property that something is a set and `is-set-UU-Prop` for the theorem that `UU-Prop` is a set. After converting from `UU-Prop` to `Prop` this name clash came to the surface, and apparently I went with the subobtimal `is-set-type-Prop`. I'm open to other suggestions.

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 5]
```diff
@@ -78,53 +82,141 @@ module _
...
-      induction-principle-cumulative-hierarchy-V)
+    (l2 : Level) → compute-induction-principle-cumulative-hierarchy l2 V
+      (induction-principle-cumulative-hierarchy-V l2))
   where
 
+  underlying-function-cumulative-hierarchy :
+    (v : type-pseudo-cumulative-hierarchy V) →
+    ∃ ( UU l1)
+      ( λ A → Σ (A → type-pseudo-cumulative-hierarchy V)
+        ( λ f → set-pseudo-cumulative-hierarchy V f ＝ v))
```
Comment (EgbertRijke) [inline src/set-theory/cumulative-hierarchy.lagda.md:139]: If you want to follow our line-breaks conventions here, this should be:

```
    ∃ ( UU l1)
       ( λ A → 
         Σ ( A → type-pseudo-cumulative-hierarchy V)
           ( λ f → set-pseudo-cumulative-hierarchy V f ＝ v))
```

If a lambda-expression doesn't fit on a line, make a line break immediately after the arrow.

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 6]
```diff
@@ -78,53 +82,141 @@ module _
...
+  underlying-function-cumulative-hierarchy =
+    induction-principle-cumulative-hierarchy-V
+      ( lsuc l1) _
+      ( λ - → is-trunc-type-Truncated-Type (set-trunc-Prop _))
```
Comment (EgbertRijke) [inline src/set-theory/cumulative-hierarchy.lagda.md:143]: The dash symbol of this lambda should be `_`, not `-`

File: src/set-theory/cumulative-hierarchy.lagda.md (hunk 5 above)
Comment (shiranaiyo) [reply src/set-theory/cumulative-hierarchy.lagda.md]: Thanks, I didn't understand well the style guide but I think I do now. I've modified it now.

File: src/set-theory/cumulative-hierarchy.lagda.md (hunk 6 above)
Comment (shiranaiyo) [reply src/set-theory/cumulative-hierarchy.lagda.md]: Corrected.

**Comment by shiranaiyo** [comment]
This last commit adds some other useful principles, corrects that the `lift` properties should be propositionally truncated, and implements the membership relation (finally!).

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 7]
```diff
@@ -78,53 +82,141 @@ module _
...
+          ((a : A) → P (f a)) → P (set-pseudo-cumulative-hierarchy V f)) →
+    ( { A B : UU l1} (f : A → type-pseudo-cumulative-hierarchy V) →
+      ( g : B → type-pseudo-cumulative-hierarchy V)
+      ( e : lift f g × lift g f)
+      ( IH₁ : (a : A) → P (f a))
+      ( IH₂ : (b : B) → P (g b)) →
+      ( (a : A) → ∃ B (λ b → Σ (f a ＝ g b)
+          ( λ p → tr P p (IH₁ a) ＝ IH₂ b))) →
+      ( (b : B) → ∃ A (λ a → Σ (g b ＝ f a)
+                       (λ p → tr P p (IH₂ b) ＝ IH₁ a))) →
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:100]: indentation

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 8]
```diff
@@ -78,53 +85,332 @@ module _
...
-    compute-induction-principle-cumulative-hierarchy l2 V
-      induction-principle-cumulative-hierarchy-V)
+    (l2 : Level) → compute-induction-principle-cumulative-hierarchy l2 V
+      (induction-principle-cumulative-hierarchy-V l2))
   where
+```
+
+### Every element of the cumulative hierarchy is given by a function into the cumulative hierarchy.
+
+```
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:141]:
``````
```agda
``````

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 9]
```diff
@@ -78,53 +85,332 @@ module _
...
+    ( ρ : {A : UU l1} → (A → type-pseudo-cumulative-hierarchy V) → (A → X) → X)
+    ( τ : {A B : UU l1} (f : A → type-pseudo-cumulative-hierarchy V)
+      ( g : B → type-pseudo-cumulative-hierarchy V)
+      ( e : type-trunc-Prop (lift f g) × type-trunc-Prop (lift g f))
+      ( IH₁ : A → X)
+      ( IH₂ : B → X) →
+      ( (a : A) → ∃ B (λ b → Σ (f a ＝ g b)
+        ( λ _ → IH₁ a ＝ IH₂ b))) →
+      ( (b : B) → ∃ A (λ a → Σ (g b ＝ f a)
+        ( λ _ → IH₂ b ＝ IH₁ a))) →
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:239]: indentation/product

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 10]
```diff
@@ -78,53 +85,332 @@ module _
...
+```agda
+  prop-recursion-principle-cumulative-hierarchy : {l2 : Level}
+    ( ρ : {A : UU l1} → (A → type-pseudo-cumulative-hierarchy V) →
+          (A → Prop l2) → Prop l2)
+    ( τ : {A B : UU l1} (f : A → type-pseudo-cumulative-hierarchy V)
+      ( g : B → type-pseudo-cumulative-hierarchy V)
+      ( e : type-trunc-Prop (lift g f))
+      ( IH₁ : A → Prop l2)
+      ( IH₂ : B → Prop l2) →
+      ( (a : A) → ∃ B (λ b → Σ (f a ＝ g b)
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:279]: indentation/product

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 11]
```diff
@@ -78,53 +85,332 @@ module _
...
+    ( type-pseudo-cumulative-hierarchy V) →
+    Prop (lsuc l1)
+  ∈-cumulative-hierarchy-Prop x =
+    simple-prop-recursion-principle-cumulative-hierarchy
+      (λ {A} f → (∃ A (λ a → f a ＝ x)) , is-prop-∃ _ _) e
+    where
+      e : {A B : UU l1} (f : A → type-pseudo-cumulative-hierarchy V)
+        ( g : B → type-pseudo-cumulative-hierarchy V) →
+        ( type-trunc-Prop (lift g f)) →
+        ( ∃ A (λ a → f a ＝ x) → ∃ B (λ b → g b ＝ x))
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:366]: Add a line break to keep things aligned
```agda
e :
  {A B UU l1} ...
```
Cf. <https://unimath.github.io/agda-unimath/CODINGSTYLE.html> (under Indentation)

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 12]
```diff
@@ -78,53 +85,332 @@ module _
...
+      ( (b : B) → ∃ A (λ a → Σ (g b ＝ f a)
+        ( λ _ → IH₂ b ＝ IH₁ a))) →
+      ρ f IH₁ ＝ ρ g IH₂) →
+    {A : UU l1} → (f : A → type-pseudo-cumulative-hierarchy V) → (IH : A → X) →
+    recursion-principle-cumulative-hierarchy X σ ρ τ
+      ( set-pseudo-cumulative-hierarchy V f) ＝ ρ f IH
+  compute-recursion-principle-cumulative-hierarchy {l2} X σ ρ τ =
+      compute-induction-principle-cumulative-hierarchy-V l2 (λ _ → X) (λ _ → σ) ρ τ'
+    where
+      τ' : {A B : UU l1} (f : A → pr1 V) (g : B → pr1 V)
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:247]: line break after `τ' :`

File: src/set-theory/cumulative-hierarchy.lagda.md [hunk 13]
```diff
@@ -78,53 +85,332 @@ module _
...
+            (λ (a , p , q) → (a , p , (inv (tr-const p _) ∙ q))) (hIH₂ b)
+```
+
+A simplification of the recursion principle, when the codomain is `Prop l2`.
+
+```agda
+  prop-recursion-principle-cumulative-hierarchy : {l2 : Level}
+    ( ρ : {A : UU l1} → (A → type-pseudo-cumulative-hierarchy V) →
+          (A → Prop l2) → Prop l2)
+    ( τ : {A B : UU l1} (f : A → type-pseudo-cumulative-hierarchy V)
```
Comment (fredrik-bakke) [inline src/set-theory/cumulative-hierarchy.lagda.md:274]: line break after `τ :`

**Comment by shiranaiyo** [comment]
Thank you @fredrik-bakke, I apologize for not following the guidelines earlier. I believe I'm following all of them now.

**Comment by fredrik-bakke** [comment]
You mustn't apologize, that's why we review! 🙂

To fix CI, install pre-commit (see how-to-install) and then run `make pre-commit` in the terminal

**Comment by shiranaiyo** [comment]
Yup, I got it passing now, thanks.

File: src/set-theory/cumulative-hierarchy.lagda.md (hunk 13 above)
Comment (fredrik-bakke) [reply src/set-theory/cumulative-hierarchy.lagda.md:297]: Missed a spot 😬

**Comment by fredrik-bakke** [comment]
This is certainly good enough to merge now. Excellent work! 😁
